US06939887B2
Synthesis of 1-(2-chlorobenzyl)-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile
Ethyl 2-amino-4-cyano-6-(trifluoromethyl)phenyl(2-chlorobenzyl)carbamate (338.7 mg) was dissolved in ethanol (20 ml), and to the solution was added sodium hydride (37.5 mg). The reaction mixture was heated at reflux for 1 hour. After allowing to cool, to the reaction mixture was added 1N hydrochloric acid, and the mixture was extracted 4 times with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title compound (287.0 mg, 96%).

reactant | Ethyl 2-amino-4-cyano-6-(trifluoromethyl)phenyl(2-chlorobenzyl)carbamate | 338.7 mg | NC1=C(C(=CC(=C1)C#N)C(F)(F)F)N(C(OCC)=O)CC1=C(C=CC=C1)Cl | C18H15ClF3N3O2
reactant | sodium hydride | 37.5 mg | [H-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(2-chlorobenzyl)-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 287.0 mg, 96% | ClC1=C(CN2C(NC3=C2C(=CC(=C3)C#N)C(F)(F)F)=O)C=CC=C1 | C16H9ClF3N3O
